US07211572B2
To a solution of 3-benzoyloxy-5-[2-(tert-butyldiphenylsilanyloxy)ethyl]-1-methyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid (0.956 g) in dimethylformamide (10 ml) were added 1-hydroxybenzotriazole hydrate (HOBT) (0.395 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride, (WSC) (0.495 g) and 3-chlorobenzylamine (0.274 ml) and the mixture was stirred at room temperature for 2 hr. Water was added and the mixture was extracted twice with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate and concentrated under,reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:2) to give 5-[2-(tert-butyldiphenylsilanyloxy)ethyl]-4-(3-chlorobenzylcarbamoyl)-1-methyl-2-oxo-1,2-dihydropyridin-3-yl benzoate (0.615 g). This compound was dissolved in tetrahydrofuran (20 ml), and acetic acid (0.259 ml) and tetrabutylammonium fluoride (0.474 g) were added, and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated, and the residue was purified by silica gel thin layer chromatography (chloroform:methanol=10:1) to give 4-(3-chlorobenzylcarbamoyl)-5-(2-hydroxyethyl)-1-methyl-2-oxo-1,2-dihydropyridin-3-yl benzoate (0.213 g).

reactant | 3-benzoyloxy-5-[2-(tert-butyldiphenylsilanyloxy)ethyl]-1-methyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid | 0.956 g | C(C1=CC=CC=C1)(=O)OC=1C(N(C=C(C1C(=O)O)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C)=O | C32H33NO6Si
reactant | 1-hydroxybenzotriazole hydrate | 0.395 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
reactant | WSC | CCN=C=NCCCN(C)C | C8H17N3
reactant | 3-chlorobenzylamine | 0.274 ml | ClC=1C=C(CN)C=CC1 | C7H8ClN
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 5-[2-(tert-butyldiphenylsilanyloxy)ethyl]-4-(3-chlorobenzylcarbamoyl)-1-methyl-2-oxo-1,2-dihydropyridin-3-yl benzoate | 0.615 g | C(C1=CC=CC=C1)(=O)OC=1C(N(C=C(C1C(NCC1=CC(=CC=C1)Cl)=O)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C)=O | C39H39ClN2O5Si
